US07504513B2
In a similar manner as described for Example 26, 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester (40 mg, 0.1 mmol) and 3-chloro-4-fluorophenylboronic acid (26.2 mg, 0.15 mmol) gave 4-(3-Chloro-4-fluoro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid (8.2 mg, 19%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.79 (br.s., 1H); 8.84 (s, 1 H,); 8.22 (dd, 1 H); 8.01 (ddd, 1 H); 7.81 (s, 1 H); 7.57 (t, 1H); 7.39 (s, 1 H); 3.87 (s, 3 H); 3.85 (s, 3 H). MS m/z 434 (M+1).

reactant | 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester | 0.1 mmol, 40 mg | COC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)Br | C14H12BrN3O4S
reactant | 3-chloro-4-fluorophenylboronic acid | 0.15 mmol, 26.2 mg | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
product | 4-(3-Chloro-4-fluoro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid | 8.2 mg, 19% | ClC=1C=C(C=CC1F)C=1N=C(SC1C(=O)O)N1C=NC2=C1C=C(C(=C2)OC)OC | C19H13ClFN3O4S
